US08536165B2
B. 3-Cyclopropoxyphenylboronic acid
A mixture of 1-bromo-3-cyclopropoxybenzene (1.36 mmol, 0.289 g), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (2.11 mmol, 0.321 mmol), PdCl2dppf.DCM (0.14 mmol, 0.112 g), KAcO (6.11 mmol, 0.600 g) in a DMSO (3 ml) was heated at 130° C. for 45 minutes, under argon atmosphere in a microwave oven. Ethyl acetate was added and filtered through celite. The organic phase was washed with water and evaporated. The crude mixture was purified by reverse phase using a water/AcN/MeOH system gradient affording 0.090 g (yield 23%) of the expected product.

reactant | 1-bromo-3-cyclopropoxybenzene | 1.36 mmol, 0.289 g | BrC1=CC(=CC=C1)OC1CC1 | C9H9BrO
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 2.11 mmol | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | DCM | 0.14 mmol, 0.112 g | C(Cl)Cl | CH2Cl2
reactant | DMSO | 3 ml | CS(=O)C | C2H6OS
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Cyclopropoxyphenylboronic acid | 0.090 g, yield 23% | C1(CC1)OC=1C=C(C=CC1)B(O)O | C9H11BO3
